US20010047031A1
(RS)-4-[1-(4-Phenyl-but-3-ynyl)-pyrrolidine-3-sulfonyl]-phenol
The title compound, MS: m/e=355.1 (M+) was prepared from (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt and toluene-4-sulfonic acid 4-phenyl-but-3-ynyl ester.

reactant | (RS)-4-(pyrrolidine-3-sulfonyl)-phenol trifluoroacetic acid salt | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | toluene-4-sulfonic acid 4-phenyl-but-3-ynyl ester | C1(=CC=CC=C1)C#CCCOS(=O)(=O)C1=CC=C(C=C1)C | C17H16O3S
product | (RS)-4-[1-(4-Phenyl-but-3-ynyl)-pyrrolidine-3-sulfonyl]-phenol | C1(=CC=CC=C1)C#CCCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C20H21NO3S
